US04652441
In 2.5 ml of a 20% aqueous gelatin solution (liquified by warming) is dissolved 1 g of methylephedrine hydrochloride and the solution is added to 10 ml of a 20% dichloromethane solution of polylactic acid (average mol. wt. 50,000). The mixture is worked up in the same manner as Example 1 to give methylephedrine microcapsules for injection

reactant | methylephedrine hydrochloride | 1 g | CC([C@@H](C=1C=CC=CC1)O)N(C)C.Cl
solvent | dichloromethane | ClCCl | CH2Cl2
product | methylephedrine | CC([C@@H](C=1C=CC=CC1)O)N(C)C | C11H17NO
